US07504401B2
6-(1H-indol-4-yl)-2-(pyridin-3-ylamino)-pyrimidin-4-ol
[4-Benzyloxy-6-(1-triisopropylsilanyl-1H-indol-4-yl)-pyrimidin-2-yl]-pyridin-3-yl-amine. DMF (1 mL) and dioxane (2 mL) were added through a septum to a nitrogen-purged microwave tube containing (4-benzyloxy-6-chloro-pyrimidin-2-yl)-pyridin-3-yl-amine (80 mg, 0.256 mmol), potassium carbonate (71 mg, 0.50 mmol), Pd(PPh3)4 (59 mg, 0.51 mmol), and 4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-1-triisopropylsilanyl-1H-indole (153 mg, 0.384 mmol). The mixture was subjected to microwave conditions 100 W/130° C. for 1 hour. SFC/MS analysis showed mostly the desired product. A small amount of product with loss of the TIPS group was seen as well. The reaction mixture was cooled to room temperature and filtered through Celite®. The solvent was concentrated and the crude mixture was purified by a short silica column with 99:1 methylene chloride/MeOH solvent mixture to afford 100 mg of [4-benzyloxy-6-(1-triisopropylsilanyl-1H-indol-4-yl)-pyrimidin-2-yl]-pyridin-3-yl-amine (˜75% pure by SFC/MS). This material was used without further purification.

reactant | [4-Benzyloxy-6-(1-triisopropylsilanyl-1H-indol-4-yl)-pyrimidin-2-yl]-pyridin-3-yl-amine | C(C1=CC=CC=C1)OC1=NC(=NC(=C1)C1=C2C=CN(C2=CC=C1)[Si](C(C)C)(C(C)C)C(C)C)NC=1C=NC=CC1 | C33H39N5OSi
reactant | (4-benzyloxy-6-chloro-pyrimidin-2-yl)-pyridin-3-yl-amine | 0.256 mmol, 80 mg | C(C1=CC=CC=C1)OC1=NC(=NC(=C1)Cl)NC=1C=NC=CC1 | C16H13ClN4O
reactant | potassium carbonate | 0.50 mmol, 71 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-1-triisopropylsilanyl-1H-indole | 0.384 mmol, 153 mg | CC1(OB(OC1(C)C)C1=C2C=CN(C2=CC=C1)[Si](C(C)C)(C(C)C)C(C)C)C | C23H38BNO2Si
catalyst | Pd(PPh3)4 | 0.51 mmol, 59 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | dioxane | 2 mL | O1CCOCC1 | C4H8O2
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
product | 6-(1H-indol-4-yl)-2-(pyridin-3-ylamino)-pyrimidin-4-ol | N1C=CC2=C(C=CC=C12)C1=CC(=NC(=N1)NC=1C=NC=CC1)O | C17H13N5O
